US08217069B2
To 2-fluoronitrobenzene (2.33 g) was added fuming sulfuric acid (20 mL), and the mixture was stirred at 60° C. for 30 minutes. The reaction mixture was cooled to room temperature. The reaction mixture was poured into ice and potassium chloride (10 g), and the resulting mixture was stirred at room temperature for 30 minutes. The precipitated crystals were collected by filtration. The collected crystals were washed with water, and dried under reduced pressure to give 4-fluoro-3-nitrobenzenesulfonic acid (3.15 g). To phosphoryl chloride (85 mL) were added 4-fluoro-3-nitrobenzenesulfonic acid (3.15 g) and phosphorus pentachloride (2.82 g) under ice-cooling, and the mixture was heated at reflux overnight. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. To the residue was added ice water, and the resulting mixture was extracted with diethyl ether. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=3/1) to give the title compound (2.65 g).

reactant | 2-fluoronitrobenzene | 2.33 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium chloride | 10 g | [Cl-].[K+]
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 4-fluoro-3-nitrobenzenesulfonic acid | 3.15 g | FC1=C(C=C(C=C1)S(=O)(=O)O)[N+](=O)[O-] | C6H4FNO5S
